US05167949
b) 2-[(4-Chlorophenoxy)methyl]-4(3H)-pteridinone
Obtained using the procedure described in section b of Example 9, starting with 17.5 g (0.0608 mole) of crude 4-amino-2-[(4-chlorophenoxy)methyl]pteridine in 1750 ml of 5% aqueous sodium hydroxide. Heating time: 1 hours 30 minutes under reflux. Yld: 8.7 g (50%), m.p. 267°-269° C. (ethanol/N,N-dimethylformamide).

reactant | 4-amino-2-[(4-chlorophenoxy)methyl]pteridine | 0.0608 mole, 17.5 g | NC1=NC(=NC2=NC=CN=C12)COC1=CC=C(C=C1)Cl | C13H10ClN5O
reactant | ethanol N,N-dimethylformamide | C(C)O.CN(C=O)C
solvent | sodium hydroxide | 1750 ml | [OH-].[Na+]
product | 2-[(4-Chlorophenoxy)methyl]-4(3H)-pteridinone | ClC1=CC=C(OCC2=NC3=NC=CN=C3C(N2)=O)C=C1 | C13H9ClN4O2
